US06525202B2
2-Methyl-5-oxiranylmethoxy-1H-indole-3-carboxylic acid ethyl ester
A solution of 2.19 g (10 mmol) of ethyl 5-hydroxy-2-methyl-indole-3-carboxylate, 2.6 g (10 mmol) of 2S(+) glycidyl-3-nitrobenzenesulfonate and 1.5 g (11 mmol) of potassium carbonate in 25 mL reagent grade acetone was refluxed overnight. The mixture was then allowed to cool to room temperature and the solids were removed by vacuum filtration. The filtrate was concentrated in vacuo and the residue was dissolved in ethyl acetate. The organics were washed once with water, twice with brine, dried over sodium sulfate and concentrated in vacuo. Then the solid was dried under vacuum to give 2.65 g of the title compound as a dull tan solid; mp 93-94° C.; 1H NMR (300 MHz, CDCl3) δ 1.44 (t, J=5.3 Hz, 3H), 2.71 (s, 3H), 2.74-2.80 (m, 1H), 2.92 (t, J=4.7 Hz, 1H), 3.37-3.43 (m, 1H), 4.00-4.06 (m, 1H), 4.27-4.31 (m, 1H), 4.37 (q, J=5.3Hz, 2H), 6.86 (dd, J=5.5, 3.0Hz, 1H), 7.18 (d, J=8.7 Hz, 1H), 7.67 (d, J=3.0 Hz, 1H), 8.32 (s, 1H); MS (ES) m/z: 275.9 (MH+); HRMS Calcd. for C15H18NO4 (MH+): 276.1236. Found: 276.1228.

reactant | ethyl 5-hydroxy-2-methyl-indole-3-carboxylate | 10 mmol, 2.19 g | OC=1C=C2C(=C(NC2=CC1)C)C(=O)OCC | C12H13NO3
reactant | glycidyl-3-nitrobenzenesulfonate | 10 mmol, 2.6 g | C(C1CO1)OS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H9NO6S
reactant | potassium carbonate | 11 mmol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-Methyl-5-oxiranylmethoxy-1H-indole-3-carboxylic acid ethyl ester | 2.65 g | C(C)OC(=O)C1=C(NC2=CC=C(C=C12)OCC1OC1)C | C15H17NO4
